US04728645
Racemic 5-(p-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride is applied, in 20 mg aliquots, to a 4.6×250 mm beta-cyclodextrin bonded silica gel column using 7:3 water:methanol as the eluant at a flow rate of 0.8 ml/min. The separate fractions are evaporated under vacuum to yield (-)-5-(p-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine, [α]D25 =-89.2° and (+)-5-(p-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine, [α]D25 +85.02°. Both compounds are separately dissolved in acetone and treated with 1 molar equivalents of ethereal hydrogen chloride to yield the hydrochloride salts, m.p. 82°-83° (amorphous) and m.p. 218°-220°, respectively.

reactant | Racemic 5-(p-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride | Cl.C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2
reactant | beta-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | (+)-5-(p-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
